### PR TITLE
Fill a couple of `sorry`s that use `IsAffineConvexSpace`

### PR DESCRIPTION
**Pull request by mo271**
Convert the pointwise convexity layer from `local instance ... AddTorsor.toConvexSpace` to hypothesized `[ConvexSpace R A]` `[IsAffineConvexSpace R V A]` binders, following the pattern of [mathlib PR #41305](https://github.com/leanprover-community/mathlib4/pull/41305). This eliminates the module-vs-affine instance diamond on `V`, since both readings now refer to a single hypothesized instance related by the `IsModuleConvexSpace R V → IsAffineConvexSpace R V V` bridge. Unconverted files keep working: under a local canonical instance the mixin is derived by `IsAffineConvexSpace.ofAddTorsor`.

New bridge lemmas (`iConvexComb_eq_affineCombination`, `iConvexComb_vadd`, `iConvexComb_vsub`, `isAffineMap_smul`) make 15 previously blocked sorries provable:

* `LinearMap.isAffineMap` (by its originally intended proof)
* `IsConvexSet.vadd`/`translate`/`add`/`vsub`/`sub`/`smul`
* `convexHull_vadd`
* `IsPolytope.translate`/`add`/`sub`/`smul`
* the three sorries in `IsPolyhedron.vadd`, including the diamond-blocked `exact hQ₁`

`IsConvexSet.smul` and `IsPolytope.smul` gain a `[SMulCommClass R R V]` hypothesis, which the statement genuinely requires over noncommutative rings.

### CODE REVIEW

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Pointwise.lean [hunk 1]
```diff
@@ -45,50 +45,82 @@ section Ring
...
-
-protected lemma IsConvexSet.smul (r : R) {K : Set V} (hK : IsConvexSet R K) :
-    IsConvexSet R (r • K) := by
-  sorry
+    (hK₁ : IsConvexSet R K₁) (hK₂ : IsConvexSet R K₂) : IsConvexSet R (K₁ - K₂) := by
+  rw [sub_eq_add_neg]
+  exact hK₁.add hK₂.neg
+
+/-- Scalar multiplication is an affine map. -/
+lemma isAffineMap_smul [SMulCommClass R R V] (r : R) :
```
Comment (mo271) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Pointwise.lean:89]: this is where `[SMulCommClass R R V]` cannot be avoided, becaus "multiply by r" is not an affine map unless r commutes with scalars.

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean [hunk 2]
```diff
@@ -0,0 +1,48 @@
+/-
+Copyright (c) 2026 Moritz Firsching. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Moritz Firsching
+-/
+
+import Mathlib.Geometry.Convex.ConvexSpace.AffineSpace
+import Mathlib.Geometry.Convex.ConvexSpace.Module
```
Comment (mo271) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean]:
```suggestion
module


public import Mathlib.Geometry.Convex.ConvexSpace.AffineSpace
public import Mathlib.Geometry.Convex.ConvexSpace.Module
```

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean [hunk 3]
```diff
@@ -0,0 +1,50 @@
...
+public import Mathlib.Geometry.Convex.ConvexSpace.Module
+
+/-!
+# Convex combinations in affine convex spaces
+
+This file proves that indexed convex combinations in an affine convex space commute with
+pointwise translation (`iConvexComb_vadd`) and pointwise difference (`iConvexComb_vsub`).
+
+-/
+
```
Comment (mo271) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean:25]:
```suggestion

@[expose] public section

```

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/AffineMap.lean [hunk 4]
```diff
@@ -37,7 +37,8 @@ variable (f : P₁ →ᵃ[R] P₂)
 open Finset AddTorsor in
 lemma isAffineMap : IsAffineMap R f where
   map_sConvexComb s:= by classical
-    simp_rw [sConvexComb_eq_affineCombination, StdSimplex.weights_map, Finsupp.mapDomain,
+    simp_rw [sConvexComb_eq_convexComb, AddTorsor.convexCombination, StdSimplex.weights_map,
+      Finsupp.mapDomain,
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/AffineMap.lean]: Do you still need this change?

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/AffineMap.lean [hunk 5]
```diff
@@ -74,7 +75,6 @@ variable [ConvexSpace R V₂] [IsModuleConvexSpace R V₂]
 
 variable (f : V₁ →ₗ[R] V₂)
 
--- TODO: This must hold. But currently the obvious proof fails due to some instance diamonds
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/AffineMap.lean]: Whoops, forgot to remove this comment 🙈

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean [hunk 6]
```diff
@@ -0,0 +1,52 @@
...
+variable {R V P I : Type*}
+variable [Ring R] [PartialOrder R] [IsStrictOrderedRing R]
+variable [AddCommGroup V] [Module R V] [AddTorsor V P]
+variable [ConvexSpace R P] [IsAffineConvexSpace R V P]
+variable [ConvexSpace R V] [IsModuleConvexSpace R V]
+
+/-- A convex combination of pointwise translates splits as the convex combination of the
+translations acting on the convex combination of the base points. -/
+theorem iConvexComb_vadd (w : StdSimplex R I) (g : I → V) (q : I → P) :
+    (w.iConvexComb fun i => g i +ᵥ q i) = w.iConvexComb g +ᵥ w.iConvexComb q := by
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean]:
```suggestion
    w.iConvexComb (fun i => g i +ᵥ q i) = w.iConvexComb g +ᵥ w.iConvexComb q := by
```
reads better IMO. Same below

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polyhedron/Basic.lean [hunk 7]
```diff
@@ -70,15 +70,10 @@ protected lemma vadd {P₁ : Set V} {P₂ : Set A} (hP₁ : IsPolyhedron R P₁)
...
-  use C₂ + C₁
-  constructor
-  · sorry -- TODO: missing lemma for polyhedral cones
-  use Q₁ +ᵥ Q₂
-  constructor
-  · exact hQ₁.vadd hQ₂
-  congr
-  -- TODO: prove this once we have `coe_add` for cones.
-  sorry
+  refine ⟨C₂ + C₁, ?_, Q₁ +ᵥ Q₂, IsPolytope.vadd hQ₁ hQ₂, ?_⟩
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polyhedron/Basic.lean]:
```suggestion
  refine ⟨C₂ + C₁, ?_, Q₁ +ᵥ Q₂, hQ₁.vadd hQ₂, ?_⟩
```

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Pointwise.lean [hunk 8]
```diff
@@ -51,35 +51,36 @@ variable [Ring R] [PartialOrder R] [IsStrictOrderedRing R]
...
   rw [Finset.coe_vadd, convexHull_vadd]
 
-/- Minkowski addition preserves convexity. -/
+/-- Translation preserves polytopes. -/
 lemma translate (t : V) {K : Set A} (hK : IsPolytope R K) : IsPolytope R (t +ᵥ K) := by
-  -- TODO: use `IsPolytope.vadd`
-  -- this likely requires a lemma `{t} + K = t + K`.
-  sorry
+  rw [← Set.singleton_vadd]
+  exact IsPolytope.vadd (IsPolytope.singleton R t) hK
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Pointwise.lean]:
```suggestion
  exact .vadd (.singleton R t) hK
```

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Lattice.lean [hunk 9]
```diff
@@ -225,6 +225,8 @@ instance : SubtractionCommMonoid (ConvexSet R X) := .ofSetLike ..
 
 /-! ### Scalar multiplication -/
 
+variable [SMulCommClass R R X]
```
Comment (mo271) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Lattice.lean:228]: see https://github.com/ooovi/Polyhedral/pull/86#discussion_r3895657042

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/AffineMap.lean (hunk 4 above)
Comment (mo271) [reply Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/AffineMap.lean]: no, reverted

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean (hunk 6 above)
Comment (mo271) [reply Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean]: also fixed below

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Pointwise.lean [hunk 10]
```diff
@@ -50,45 +52,80 @@ variable [Ring R] [PartialOrder R] [IsStrictOrderedRing R]
...
+    IsAffineMap R (fun x : V => r • x) := by
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Pointwise.lean]:
```suggestion
    IsAffineMap R fun x : V => r • x := by
```

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Pointwise.lean [hunk 11]
```diff
@@ -50,45 +52,80 @@ variable [Ring R] [PartialOrder R] [IsStrictOrderedRing R]
...
+    rw [← iConvexComb_id' w, iConvexComb_congr fun i hi => (hgq i hi).symm, iConvexComb_vsub]
+  rw [key]
+  refine Set.vsub_mem_vsub (hK₁.sConvexComb_mem fun x hx => ?_)
+    (hK₂.sConvexComb_mem fun x hx => ?_) <;>
+  · simp only [StdSimplex.weights_map] at hx
+    obtain ⟨i, hi, rfl⟩ :=
+      Finset.mem_image.mp (Finsupp.mapDomain_support (Finset.mem_coe.mp hx))
+    first
+      | exact hg i (Finsupp.mem_support_iff.mp hi)
+      | exact hq i (Finsupp.mem_support_iff.mp hi)
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Pointwise.lean]: Shouldn't the proof be "Addition is an affine map"? Same for subtraction (although the current proof is short, a proof that uses the fact that subtraction is an affine map would demonstrate that this fact is present)

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Pointwise.lean [hunk 12]
```diff
@@ -50,45 +52,80 @@ variable [Ring R] [PartialOrder R] [IsStrictOrderedRing R]
...
+
+/-- Translation preserves convexity. -/
 lemma IsConvexSet.translate (t : V) {K : Set A} (hK : IsConvexSet R K) :
     IsConvexSet R (t +ᵥ K) := by
-  -- TODO: use `IsConvexSet.vadd hK₁ hK₂` by setting `K₁ := {t}` and
-  --  some missing vadd lemmas
-  -- this likely requires a compatbility class between affine and linear convexity
-  sorry
+  rw [← Set.singleton_vadd]
+  exact IsConvexSet.vadd .singleton hK
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Pointwise.lean]:
```suggestion
  exact .vadd .singleton hK
```

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Pointwise.lean [hunk 13]
```diff
@@ -50,45 +52,80 @@ variable [Ring R] [PartialOrder R] [IsStrictOrderedRing R]
...
+    rw [← iConvexComb_id' w, iConvexComb_congr fun i hi => (hgq i hi).symm, iConvexComb_vadd]
+  rw [key]
+  refine Set.vadd_mem_vadd (hK₁.sConvexComb_mem fun x hx => ?_)
+    (hK₂.sConvexComb_mem fun x hx => ?_) <;>
+  · simp only [StdSimplex.weights_map] at hx
+    obtain ⟨i, hi, rfl⟩ :=
+      Finset.mem_image.mp (Finsupp.mapDomain_support (Finset.mem_coe.mp hx))
+    first
+      | exact hg i (Finsupp.mem_support_iff.mp hi)
+      | exact hq i (Finsupp.mem_support_iff.mp hi)
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Pointwise.lean]: Similarly

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Pointwise.lean (hunk 11 above)
Comment (mo271) [reply Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Pointwise.lean]: makes sense, doing that now

**Comment by mo271** [comment]
now using the same strategy suggested by @YaelDillies for `vadd`  (and `vsub`) in `Pointwise` also for `convexHull.vadd`, adding a new file `Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Prod.lean`

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Prod.lean [hunk 14]
```diff
@@ -0,0 +1,32 @@
...
+@[expose] public section
+
+namespace Convexity
+
+variable {R X Y Z : Type*} [Semiring R] [PartialOrder R] [IsStrictOrderedRing R]
+variable [ConvexSpace R X] [ConvexSpace R Y] [ConvexSpace R Z]
+
+/-- The pairing of two affine maps is affine. -/
+lemma IsAffineMap.prodMk {f : X → Y} {g : X → Z} (hf : IsAffineMap R f) (hg : IsAffineMap R g) :
+    IsAffineMap R (fun x => (f x, g x)) where
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Prod.lean]:
```suggestion
@[fun_prop]
lemma IsAffineMap.prodMk {f : X → Y} {g : X → Z} (hf : IsAffineMap R f) (hg : IsAffineMap R g) :
    IsAffineMap R fun x => (f x, g x) where
```

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Hull.lean [hunk 15]
```diff
@@ -29,6 +32,23 @@ namespace Convexity
...
+lemma convexHull_prod (s : Set X) (t : Set Y) :
+    convexHull R (s ×ˢ t) = convexHull R s ×ˢ convexHull R t := by
+  refine Subset.antisymm (convexHull_min
+    (prod_mono subset_convexHull_self subset_convexHull_self)
+    (IsConvexSet.convexHull.prod IsConvexSet.convexHull)) ?_
+  rintro ⟨x, y⟩ ⟨hx, hy⟩
+  have step : ∀ y ∈ t, (x, y) ∈ convexHull R (s ×ˢ t) := by
+    intro y hy
+    have hcvx : IsConvexSet R ((fun x => (x, y)) ⁻¹' convexHull R (s ×ˢ t)) :=
+      IsConvexSet.preimage (IsAffineMap.id.prodMk (.const y)) IsConvexSet.convexHull
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Hull.lean]:
```suggestion
      .preimage (by fun_prop) .convexHull
```
same below

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean [hunk 16]
```diff
@@ -0,0 +1,65 @@
...
+/-- A convex combination of pointwise differences is the difference of the convex
+combinations. -/
+theorem iConvexComb_vsub (w : StdSimplex R I) (p q : I → P) :
+    w.iConvexComb (fun i => p i -ᵥ q i) = w.iConvexComb p -ᵥ w.iConvexComb q := by
+  rw [iConvexComb_eq_sum, iConvexComb_eq_affineCombination (f := p),
+    iConvexComb_eq_affineCombination (f := q), Finsupp.sum,
+    ← Finset.sum_smul_vsub_eq_affineCombination_vsub]
+
+/-- Translation `(v, p) ↦ v +ᵥ p` is an affine map on the product convex space. -/
+lemma isAffineMap_vadd : IsAffineMap R (fun x : V × P => x.1 +ᵥ x.2) where
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean:59]: Can we also have the compositional form `IsAffineMap.vadd` for use by `fun_prop`?

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Pointwise.lean [hunk 17]
```diff
@@ -51,35 +51,36 @@ variable [Ring R] [PartialOrder R] [IsStrictOrderedRing R]
...
 variable [AddTorsor V A] [ConvexSpace R A] [IsAffineConvexSpace R V A]
 
-/- The Minkowski sum of two polytopes is a polytope. -/
+/-- The Minkowski sum of two polytopes is a polytope. -/
 protected lemma vadd {P₁ : Set V} {P₂ : Set A} (hP₁ : IsPolytope R P₁) (hP₂ : IsPolytope R P₂) :
     IsPolytope R (P₁ +ᵥ P₂) := by classical
   obtain ⟨s₁, rfl⟩ := hP₁
   obtain ⟨s₂, rfl⟩ := hP₂
   use s₁ +ᵥ s₂
   rw [Finset.coe_vadd, convexHull_vadd]
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Pointwise.lean]: This should go through `IsPolytope.prod` along with `IsPolytope.image`

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Hull.lean (hunk 15 above)
Comment (mo271) [reply Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Hull.lean]: also done below

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean (hunk 16 above)
Comment (mo271) [reply Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/AffineSpace.lean:59]: done

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Pointwise.lean (hunk 17 above)
Comment (mo271) [reply Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Pointwise.lean]: ok, added  `IsPolytope.prod` and used that with `.image`...

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Pointwise.lean [hunk 18]
```diff
@@ -51,35 +52,35 @@ variable [Ring R] [PartialOrder R] [IsStrictOrderedRing R]
...
+  exact (hP₁.prod hP₂).image isAffineMap_vadd
 
-/- Minkowski addition preserves convexity. -/
+/-- Translation preserves polytopes. -/
 lemma translate (t : V) {K : Set A} (hK : IsPolytope R K) : IsPolytope R (t +ᵥ K) := by
-  -- TODO: use `IsPolytope.vadd`
-  -- this likely requires a lemma `{t} + K = t + K`.
-  sorry
+  rw [← Set.singleton_vadd]
+  exact .vadd (.singleton R t) hK
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Pointwise.lean]: Does this work?
```suggestion
  exact hK.image (by fun_prop)
```

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Pointwise.lean [hunk 19]
```diff
@@ -51,35 +52,35 @@ variable [Ring R] [PartialOrder R] [IsStrictOrderedRing R]
...
-/- The Minkowski addition of two polytopes is a polytope. -/
+/-- The Minkowski sum of two polytopes is a polytope. -/
 protected lemma add {P₁ : Set V} {P₂ : Set V}
-    (hP₁ : IsPolytope R P₁) (hP₂ : IsPolytope R P₂) : IsPolytope R (P₁ + P₂) :=
-  -- TODO: use `IsPolytope.vadd hP₁ hP₂`
-  -- this likely requires a compatbility class between affine and linear convexity
-  sorry
+    (hP₁ : IsPolytope R P₁) (hP₂ : IsPolytope R P₂) : IsPolytope R (P₁ + P₂) := by
+  have h := IsPolytope.vadd (A := V) hP₁ hP₂
+  rwa [show P₁ +ᵥ P₂ = P₁ + P₂ from Set.image2_congr fun a _ b _ => vadd_eq_add a b] at h
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Pointwise.lean]: I think it's okay to use the defeq here
```suggestion
  exact hP₁.vadd hP₂
```

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Hull.lean [hunk 20]
```diff
@@ -29,6 +32,23 @@ namespace Convexity
 variable {R X Y : Type*} [Semiring R] [PartialOrder R] [IsStrictOrderedRing R] [ConvexSpace R X]
   [ConvexSpace R Y] {C s t : Set X} {x y : X}
 
+/-- The convex hull of a product is the product of the convex hulls. -/
+lemma convexHull_prod (s : Set X) (t : Set Y) :
+    convexHull R (s ×ˢ t) = convexHull R s ×ˢ convexHull R t := by
+  refine Subset.antisymm (convexHull_min
+    (prod_mono subset_convexHull_self subset_convexHull_self)
+    (IsConvexSet.convexHull.prod IsConvexSet.convexHull)) ?_
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Hull.lean]:
```suggestion
    (.prod .convexHull .convexHull)) ?_
```

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Pointwise.lean [hunk 21]
```diff
@@ -50,45 +52,54 @@ variable [Ring R] [PartialOrder R] [IsStrictOrderedRing R]
...
-/- Minkowski addition preserves convexity. -/
+/-- Minkowski addition preserves convexity. -/
 protected lemma IsConvexSet.add {K₁ : Set V} {K₂ : Set V}
-    (hK₁ : IsConvexSet R K₁) (hK₂ : IsConvexSet R K₂) : IsConvexSet R (K₁ + K₂) :=
-  -- TODO: use `IsConvexSet.vadd hK₁ hK₂`
-  -- this likely requires a compatbility class between affine and linear convexity
-  sorry
+    (hK₁ : IsConvexSet R K₁) (hK₂ : IsConvexSet R K₂) : IsConvexSet R (K₁ + K₂) := by
+  have h := IsConvexSet.vadd (A := V) hK₁ hK₂
+  rwa [show K₁ +ᵥ K₂ = K₁ + K₂ from Set.image2_congr fun a _ b _ => vadd_eq_add a b] at h
```
Comment (YaelDillies) [inline Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Set/Pointwise.lean]:
```suggestion
    (hK₁ : IsConvexSet R K₁) (hK₂ : IsConvexSet R K₂) : IsConvexSet R (K₁ + K₂) := hK₁.vadd hK₂
```

File: Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Pointwise.lean (hunk 18 above)
Comment (mo271) [reply Polyhedral/Mathlib/Geometry/Convex/ConvexSpace/Polytope/Pointwise.lean]: yes

**Review by YaelDillies — APPROVED** [review]
LGTM!

**Comment by mo271** [comment]
@martinwintermath

**Comment by YaelDillies** [comment]
You have merge conflicts. Also your PR title/description are outdated

**Comment by martinwintermath** [comment]
Looks good. Once merge conflicts are resolved I merge.

@mo271 Do title and description need updating? Also, do you plan to PR the independent bits to mathlib?

**Comment by mo271** [comment]
> Looks good. Once merge conflicts are resolved I merge.

conflicts resolved.

> 
> @mo271 Do title and description need updating? 

done


> Also, do you plan to PR the independent bits to mathlib?

I wasn't planning on this: I have a huge pile of stuff I want to pr to mathlib anyhow, so happy if somebody else can upstream these independent bits: perhaps it is a good lesson for some of the participants of the ongoing workshop?
